* Z:\mnt\design.r\spice\examples\3729L-6.asc
C1 N007 N008 .47µ
D1 N002 N007 MBR0520L
L1 N008 N009 1µ
R1 N009 OUT .002
M§Q3 IN N016 N019 N019 Si4816BDY_2
C2 N018 N019 .47µ
M§Q4 N019 N023 0 0 Si7386DP m=2
L2 N019 N020 1µ
R2 N021 0 60.4K
R3 N022 N021 10K
R4 OUT N017 3.3K
C3 N015 N014 3300p
R5 N014 0 1.5K
C4 N013 0 250p
D2 N002 N018 MBR0520L
V1 IN 0 6
R6 N020 OUT .002
C5 N002 0 10µ
C7 OUT 0 270µ
D4 0 N019 MBR0540
Rload OUT 0 .0175
XU1 N013 N009 OUT N021 N011 N010 N004 N015 0 N022 0 OUT OUT N020 N017 N016 N019 N018 N023 0 N002 N003 N012 N001 N007 N008 N005 N006 LTC3729L-6
R7 IN N001 10
C8 N001 0 .1µ
D3 0 N008 MBR0540
M§Q1 N008 N012 0 0 Si7386DP m=2
M§Q2 IN N005 N008 N008 Si4816BDY_2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 700u startup
.lib LTC3729L-6.sub
.backanno
.end
